US07482448B2
(S)-2-acetoxy-3-tert-butoxycarbonylamino-pentanoic acid (1.82 mmol, 0.5 g, A) is dissolved in 30 mL dichloromethane. N-Cyclohexylcarbodiimide-N′-methylpolystyrene (3.64 mmol, 1.92 g, B) is added and the resulting reaction mixture stirred for 2 min. 4-(trifluoromethoxy)benzoic acid hydrazide (1.65 mmol, 0.363 g, C) is added and the reaction mixture stirred over night. After 16 hours LC/MS analysis still showed hydrazide. Polystyrene methyl isocyanate (1.65 mmol, 1.15 g) is added and stirring continued for eight hours. The reaction mixture is filtered under suction and the filtrate concentrated under reduced pressure. To give acetic acid (S)-2-tert-butoxycarbonylamino-1-[N′-(4-trifluoromethoxy-benzoyl)hydrazinocarbonyl]-butyl ester as a foam (0.5 g, 64%). According to LC/MS still some hydrazide present. MS: m/z=500 (M+Na+), 478 (M+H+)

reactant | (S)-2-acetoxy-3-tert-butoxycarbonylamino-pentanoic acid | C(C)(=O)O[C@H](C(=O)O)C(CC)NC(=O)OC(C)(C)C | C12H21NO6
reactant | 4-(trifluoromethoxy)benzoic acid hydrazide | 1.65 mmol, 0.363 g | FC(OC1=CC=C(C(=O)NN)C=C1)(F)F | C8H7F3N2O2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | acetic acid (S)-2-tert-butoxycarbonylamino-1-[N′-(4-trifluoromethoxy-benzoyl)hydrazinocarbonyl]-butyl ester | 0.5 g, 64% | C(C)(C)(C)OC(=O)NC([C@@H](C(=O)NNC(C1=CC=C(C=C1)OC(F)(F)F)=O)OC(C)=O)CC | C20H26F3N3O7
